US06107036
5-Hydroxy-2,2-dimethyl-benzofuran-3-one
80 mmol t-butylhydroquinone together with 80 mmol potassium bromate is suspended in 100 ml water. 20 drops 1 M sulfuric acid is added thereto while stirring. The reaction mixture is slowly heated to 80° C. while stirring. A clear orange solution of the quinone forms. When this is cooled to room temperature orange needles precipitate (t-butylbenzoquinone). These are dissolved in 400 ml ethanol while still wet. The solution is irradiated for 15 h at 5° C. with a 250 W sodium-vapour lamp (TLC control). The solvent is removed by distillation, the residue is washed with toluene/hexane 1:1. The remaining colourless crystalline residue (2-(2'-ethyl-2'-ethoxy-propyl)-hydroquinone) is fed into a mixture of 4 ml ethanol and 80 ml glacial acetic acid. 4 ml 40% aqueous tetrafluoroboric acid is added while stirring. The mixture is heated to 80° C. during which a clear solution forms. After cooling to room temperature it is poured onto 200 ml water and extracted with toluene. The organic phase is washed once with water and dried over potassium carbonate. After removing the solvent by distillation an oil remains (5-hydroxy-2,2-dimethyl-2,3-dihydro-benzofurane). The benzoylation, oxidation and saponification are carried out as described in example 15.

reactant | t-butylhydroquinone | 80 mmol | C(C)(C)(C)C1=C(O)C=CC(=C1)O | C10H14O2
reactant | potassium bromate | 80 mmol | Br(=O)(=O)[O-].[K+]
reactant | t-butylbenzoquinone | C(C)(C)(C)C=1C(C=CC(C1)=O)=O | C10H12O2
reactant | sodium | [Na] | Na
reactant | ethanol | 400 ml | C(C)O | C2H6O
solvent | water | 100 ml | O | H2O
catalyst | sulfuric acid | 1 M, 20 drops | S(O)(O)(=O)=O | H2O4S
product | 5-Hydroxy-2,2-dimethyl-benzofuran-3-one | OC=1C=CC2=C(C(C(O2)(C)C)=O)C1 | C10H10O3
